US09023840B2
Step 1: 4-bromo-3-fluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide
(2S)-1,1,1-Trifluoropropan-2-amine hydrochloride (0.068 g, 0.46 mmol) (ACS Scientific Inc., Cat. #2-01-6) was added to a mixture of 4-bromo-3-fluorobenzoic acid (0.100 g, 0.457 mmol) and N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.26 g, 0.68 mmol) in methylene chloride (2.50 mL), followed by N,N-diisopropylethylamine (0.16 mL, 0.91 mmol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was worked up with aqueous NaHCO3, and extracted with methylene chloride (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexanes (0-20%) to afford the desired product. LCMS (M+H)+: m/z=314.0/316.0.

reactant | (2S)-1,1,1-Trifluoropropan-2-amine hydrochloride | 0.46 mmol, 0.068 g | Cl.FC([C@H](C)N)(F)F
reactant | 4-bromo-3-fluorobenzoic acid | 0.457 mmol, 0.100 g | BrC1=C(C=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.68 mmol, 0.26 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 0.91 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 2.50 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-3-fluoro-N-[(1S)-2,2,2-trifluoro-1-methylethyl]benzamide | BrC1=C(C=C(C(=O)N[C@H](C(F)(F)F)C)C=C1)F | C10H8BrF4NO
